US07238822B2
Separately, 5 g of dichloro(cyclooctadienyl)ruthenium was dissolved in 200 ml of well dried tetrahydrofuran in a 500 ml flask whose inside had been substituted by nitrogen. This solution was cooled to −78° C., and the above synthesized tetrahydrofuran solution of trimethylsilyl cyclopentadienyl sodium was added dropwise to the above solution in a stream of nitrogen over 1 hour. The resulting solution was stirred at −78° C. for 3 hours and returned to room temperature under agitation over 12 hours. After the solution was let pass through a neutral alumina column in an argon gas atmosphere to be purified and concentrated, it was separated and purified by a neutral alumina column again to obtain 0.9 g of bis(trimethylsilylcyclopentadienyl)ruthenium (yield rate of 13%).

reactant | dichloro(cyclooctadienyl)ruthenium | 5 g | Cl[Ru](C1=CC=CCCCC1)Cl
reactant | trimethylsilyl cyclopentadienyl sodium | C[Si](C)(C)C1(C=CC=C1)[Na]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | bis(trimethylsilylcyclopentadienyl)ruthenium | 0.9 g, 13% | C[Si](C)(C)C1(C=CC=C1)[Ru]C1(C=CC=C1)[Si](C)(C)C | InChI=1S/2C8H13Si.Ru/c2*1-9(2,3)8-6-4-5-7-8;/h2*4-7H,1-3H3;
